US08258160B2
Synthesis of N-benzyl-3-methyl-5-(1H-1,2,4-triazol-3-yl)thiophene-2-carboxamide
N-benzyl-5-(hydrazinyl(imino)methyl)-3-methylthiophene-2-carboxamide (0.65 g, 2.24 mmol) in formic acid (20 mL) was stirred at reflux for 2 h. The reaction mixture was allowed to cool to ambient temperature, and then was concentrated in vacuo. The residue was dissolved in saturated aqueous sodium bicarbonate solution (50 mL) and extracted with 5% methanol in dichloromethane (3×75 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with dichloromethane in hexanes to afford the title compound as a light yellow solid (0.56 g, 84%): 1H NMR (300 MHz, CDCl3) δ 8.23 (s, 1H), 7.48 (s, 1H), 7.39-7.30 (m, 5H), 6.14 (br s, 1H), 4.63 (d, J=5.4 Hz, 2H), 2.54 (s, 3H); MS (ES+) m/z 299.2 (M+1).

reactant | N-benzyl-5-(hydrazinyl(imino)methyl)-3-methylthiophene-2-carboxamide | 2.24 mmol, 0.65 g | C(C1=CC=CC=C1)NC(=O)C=1SC(=CC1C)C(=N)NN | C14H16N4OS
reactant | formic acid | 20 mL | C(=O)O | CH2O2
product | N-benzyl-3-methyl-5-(1H-1,2,4-triazol-3-yl)thiophene-2-carboxamide | 0.56 g, 84% | C(C1=CC=CC=C1)NC(=O)C=1SC(=CC1C)C1=NNC=N1 | C15H14N4OS
